US07767672B2
tert-butyl 3-hydroxy-3-(3-hydroxypropyl)azetidine-1-carboxylate
Diisobutyl aluminium hydride (1.48 mmol, 1.48 ml, 1 M DCM) was added dropwise to a solution of tert-butyl 3-(2-(ethoxycarbonyl)ethyl)-3-hydroxyazetidine-1-carboxylate (0.10 g, 0.37 mmol) in DCM (3 ml) at −78° C. The solution was allowed to warm to 0° C. and stirred for a further 5 hrs. The reaction was quenched with Sat NH4Cl (10 ml) and extracted into ethyl acetate (10 ml), dried (Na2SO4), and concentrated to give an oil. The oil was purified by flash column chromatography eluting with 60% ethylacetate/hexanes to give the title compound as a colorless oil 27 mg, 32%. 1H NMR (CDCl3, 400 MHz) 1.48 (9H, s), 1.69-1.75 (2H, m), 1.93 (2H, t), 3.76 (2H, t), 3.82 (4H, s).

reactant | Diisobutyl aluminium hydride | 1.48 mmol, 1 M, 1.48 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | tert-butyl 3-(2-(ethoxycarbonyl)ethyl)-3-hydroxyazetidine-1-carboxylate | 0.37 mmol, 0.10 g | C(C)OC(=O)CCC1(CN(C1)C(=O)OC(C)(C)C)O | C13H23NO5
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl 3-hydroxy-3-(3-hydroxypropyl)azetidine-1-carboxylate | 27 mg, 32% | OC1(CN(C1)C(=O)OC(C)(C)C)CCCO | C11H21NO4
